US05321135
Synthesis of 5,6,7,8-tetrahydro-1,2,3,10,11,12-hexamethoxydibenzo[a,c]cyclooctene
Dissolved in 1.2 ml (0.128 mmol) of dichloromethane were 50 mg (0.128 mmol) of 1,4-bis(3,4,5-trimethoxyphenyl)butane, followed by the addition of 0.12 ml of trifluoroacetic acid and 178 mg (0.39 mmol) of ferric perchlorate. After stirred at room temperature for 40 minutes, the reaction mixture was dissolved in 20 ml of ethyl acetate. The resulting solution was washed with 2N-HCl and then with saturated NaCl. The organic layer was thereafter dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, whereby brown oil was obtained. The oil thus obtained was purified by TLC (silica gel: "MERCK #5744", eluent: 1:1 mixed solvent of ethyl acetate and hexane), whereby 3 mg of the title compound were obtained as colorless oil (yield: 6%).

reactant | dichloromethane | 0.128 mmol, 1.2 ml | ClCCl | CH2Cl2
reactant | 1,4-bis(3,4,5-trimethoxyphenyl)butane | 0.128 mmol, 50 mg | COC=1C=C(C=C(C1OC)OC)CCCCC1=CC(=C(C(=C1)OC)OC)OC | C22H30O6
reactant | trifluoroacetic acid | 0.12 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 5,6,7,8-tetrahydro-1,2,3,10,11,12-hexamethoxydibenzo[a,c]cyclooctene | 3 mg | COC1=C(C(=CC2=C1C1=C(CCCC2)C=C(C(=C1OC)OC)OC)OC)OC | C22H28O6
